US07563890B2
2,6-Diformyl-4-(dodecen-1-yl)phenol
2,6-Diformyl-4-bromophenol (1.00 g, 4.37 mmol), 1-dodecene (4.8 mL, 21.7 mmol), 1.40 g tetrabutylammonium bromide (4.34 mmol), 0.50 g NaHCO3 (5.95 mmol), 1.00 g LiCI (23.6 mmol) and 0.100 g palladium diacetate (Pd(OAc)2) (0.45 mmol) were combined in 30 mL degassed anhydrous dimethylformamide (DMF). The mixture was sparged with argon for 10 min and then sealed in a pressure vial which was warmed to 82° C. and held for 40 h. The crude reaction mixture was partitioned between CH2CI2 and 0.1 M HCI solution. The organic layer was washed with 0.1 M HCI (2×), brine (2×), and saturated aqueous NaHCO3 (2×), dried over MgSO4 and concentrated under reduced pressure. The dark yellow oil was purified by column chromatography on silica gel (25% hexanes in Et2O) to give 0.700 g (51%) of the title compound as primarily the Z isomer.

reactant | 2,6-Diformyl-4-bromophenol | 4.37 mmol, 1.00 g | C(=O)C1=C(C(=CC(=C1)Br)C=O)O | C8H5BrO3
reactant | 1-dodecene | 21.7 mmol, 4.8 mL | C=CCCCCCCCCCC | C12H24
reactant | NaHCO3 | 5.95 mmol, 0.50 g | C(=O)(O)[O-].[Na+]
catalyst | tetrabutylammonium bromide | 4.34 mmol, 1.40 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium diacetate | 0.45 mmol, 0.100 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 2,6-Diformyl-4-(dodecen-1-yl)phenol | 0.700 g, 51% | C(=O)C1=C(C(=CC(=C1)C=CCCCCCCCCCC)C=O)O | C20H28O3
